US06013653
(±)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (100 g), (1R)-(-)-10-camphorsulfonic acid monohydrate (85.3 g), and radiolite (1 g) in ethanol (1,000 ml) were heated under reflux. It was cooled to 35° C., and 0.2 g of seed crystals were added thereto, thereafter it was agitated at an interior temperature of 20~30° C. for 3 hr, and after ethanol (1,000 ml) was added therto, it was agitated overnight at 20~30° C. The following day, water (25 ml) was added thereto and it was agitated for 1 hr at 20~30° C., and after the temperature was raised to 33~37° C., it was agitated for 30 min. It was cooled to 20~30° C., thereafter the precipitated crystals were collected by filtration, washed with ethanol (100 ml), and dried overnight under vacuum to obtain (+)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one·CSA salt as colorless coarse crystals.

reactant | (±)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 100 g | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O | C18H19N3O
reactant | (1R)-(-)-10-camphorsulfonic acid monohydrate | 85.3 g | O.[C@@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O
reactant | water | 25 ml | O | H2O
solvent | ethanol | 1,000 ml | C(C)O | C2H6O
solvent | ethanol | 1,000 ml | C(C)O | C2H6O
product | (+)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one·CSA | yield=28% | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O.CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | InChI=1S/C18H19N3O.C10H16O4S/c1-11-14-5-3-4-6-17(14)21-16(11)8-7-13(18(21)22)9-15-12(2)19-10-20-15;1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14/h3-6,10,13H,7-9H2,1-2H3,(H,19,20);7H,3-6H2,1-2H3,(H,12,13,14)
